US05563157
2.2 Synthesis of (E)-2-(Thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid
Combine (E)-2-(thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester and formic acid (96%, 20 mL). After 2 hours, evaporate in vacuo to obtain a residue. Triturate with pentane containing a small amount of diethyl ether to obtain a solid. Recrystallize the solid from cyclohexane/ethyl acetate/acetone, filter, and dry to give the title compound: mp 184°-187° C. (dec). 1H NMR (DMSO-d6) δ 13.2 (br s, 1H), 7.92 (d, 1H, J=1.7 Hz), 7.80 (d, 2H, J=8.4 Hz), 7.60 (s, 1H), 7.57 (d, 1H, J=1.7 Hz), 7.44 (d, 2H, J=8.4 Hz), 7.40 (dd, 1H, J=4.7, 1.5 Hz), 6.84-6.8 (m, 2H), 4.14 (q, 2H, J=7.1 Hz), 2.37 (s, 3H), 1.13 (t, 3H, J=7.1 Hz). Elemental Analysis calculated for C25H19Cl2NO6S2 : C, 53.20; H, 3.39; N, 2.48. Found: C, 53.30; H, 3.40; N, 2.41.

reactant | (E)-2-(thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | S1C(=CC=C1)\C(\C(=O)OC(C)(C)C)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C29H27Cl2NO6S2
solvent | formic acid | 20 mL | C(=O)O | CH2O2
product | (E)-2-(Thien-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid | S1C(=CC=C1)\C(\C(=O)O)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C25H19Cl2NO6S2
